US05945382
a) (2,4-dimethyl)phenyl acetate (compound 92)
83 ml (1.02 mol) of pyridine are added to a solution of 120 ml (1 mol) of 2,4-dimethylphenol in 400 ml of dichloromethane cooled to 5° C. After stirring for 15 minutes and cooling the reaction mixture to -10° C., 73 ml (1.02 mol) of acetyl chloride in solution in 100 ml of dichloromethane are added dropwise. The reaction mixture is then brought to reflux for 2 hours, then cooled and treated by the addition of 200 ml of water, and then acidified to a pH of 1. The organic phase is extracted, dried over MgSO4 and filtered on a silica bed, to lead to the production of a yellow oil: 2,4-dimethylphenyl acetate: yield 98%.

reactant | pyridine | 1.02 mol, 83 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,4-dimethylphenol | 1 mol, 120 ml | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | acetyl chloride | 1.02 mol, 73 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (2,4-dimethyl)phenyl acetate | yield 98% | C(C)(=O)OC1=C(C=C(C=C1)C)C | C10H12O2
